US06346622B1
3,3-Dimethyl-2-[3-(4-(1-naphthyl)-1-piperazinyl)-prop-1-yl]-6-(1-pyrrolyl)-2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide (melting point 269° C., hydrochloride).
The pyrrole ring was assembled by reacting 3,3-dimethyl-2-[3-(4-(1-naphthyl)-1-piperazinyl)prop-1-yl]-6-amino-2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide with 2,5-dimethoxytetrahydrofuran in glacial acetic acid at 100° C. (1 h) in 86% yield.

reactant | 3,3-dimethyl-2-[3-(4-(1-naphthyl)-1-piperazinyl)prop-1-yl]-6-amino-2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide | CC1(N(S(C2=C1C=CC(=C2)N)(=O)=O)CCCN2CCN(CC2)C2=CC=CC1=CC=CC=C21)C | C26H32N4O2S
reactant | 2,5-dimethoxytetrahydrofuran | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,3-Dimethyl-2-[3-(4-(1-naphthyl)-1-piperazinyl)-prop-1-yl]-6-(1-pyrrolyl)-2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide | 86% yield | CC1(N(S(C2=C1C=CC(=C2)N2C=CC=C2)(=O)=O)CCCN2CCN(CC2)C2=CC=CC1=CC=CC=C21)C | C30H34N4O2S
